US07723329B2
Step 4) 7-(2-Chloro-ethoxy)-5-methoxy-3-(naphthalene-1-sulfonyl)-1H-indazole
A mixture of 2-(2-chloro-ethoxy)-4-methoxy-6-(naphthalene-1-sulfonylmethyl)-phenylamine (1.0 g, 2.46 mmoles) in THF (7 mL), and 4M HCl (15 mL) was stirred in a round bottom flask, under nitrogen, at 3° C. A solution of sodium nitrite (0.17 g, 2.6 mmoles) in H2O (1 mL) was added dropwise. The reaction mixture was poured into a cold solution of saturated sodium bicarbonate (100 mL) and extracted with EtOAc. Compound was dried over Na2SO4, and concentrated under vacuum to afford the title compound as an off white solid (1.0 g, 2.39 mmoles).

reactant | 2-(2-chloro-ethoxy)-4-methoxy-6-(naphthalene-1-sulfonylmethyl)-phenylamine | 2.46 mmoles, 1.0 g | ClCCOC1=C(C(=CC(=C1)OC)CS(=O)(=O)C1=CC=CC2=CC=CC=C12)N | C20H20ClNO4S
reactant | HCl | 4M, 15 mL | Cl | ClH
reactant | sodium nitrite | 2.6 mmoles, 0.17 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | H2O | 1 mL | O | H2O
product | 7-(2-Chloro-ethoxy)-5-methoxy-3-(naphthalene-1-sulfonyl)-1H-indazole | ClCCOC=1C=C(C=C2C(=NNC12)S(=O)(=O)C1=CC=CC2=CC=CC=C12)OC | C20H17ClN2O4S
